US08664216B2
b) 1H-Spiro[isochromene-4,4′-piperidine]
A mixture of (4-phenyl-piperidin-4-yl)-methanol (0.1 g, 0.5 mmol), paraformaldehyde (0.11 g, 3.7 mmol), 1,4-dioxane (5 ml) and concentrated hydrochloric acid solution (1.3 ml) was heated at reflux for 80 h. The reaction mixture was diluted with ethyl acetate (100 ml) and washed with 0.5 M aqueous sodium hydroxide solution. The aqueous layer was extracted with ethyl acetate (100 ml). The combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo. Flash chromatography of the crude product with dichloromethane/methanol as eluent gave the title compound (0.053 g, 50%) as yellow solid. MS m/e: 204 (M+H+).

reactant | (4-phenyl-piperidin-4-yl)-methanol | 0.5 mmol, 0.1 g | C1(=CC=CC=C1)C1(CCNCC1)CO | C12H17NO
reactant | paraformaldehyde | 3.7 mmol, 0.11 g | C=O | CH2O
reactant | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 1.3 ml | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1H-Spiro[isochromene-4,4′-piperidine] | 0.053 g, 50% | N1CCC2(CC1)COCC1=CC=CC=C12 | C13H17NO
